US05506228
A flasked equiped with a claisen distillation head and magnetic stirring was charged with mixture of 32.6 g (0.097 mole) 1-[(4-chlorophenyl)thio]-1-[(4-methoxyphenyl)hydrazono]-2-propanone, 24.8 ml of ethylcyanoacetate and 12.2 g of ammonium acetate. The mixture was heated under a nitrogen atmosphere at 160° C. for 30 min. The reaction mixture was cooled and dissolved in methylene chloride. The organic layer was washed successively with sat'd aqueous sodium bicarbonate and water. The organic layer was dried over magnesium sulfate and evaporated in vacuo to yield semi pure product. The residue was recrystallized from 1900 ml of ethanol to yield 33.05 g of 6-[(4-chlorophenyl)thio]-2,3-dihydro-2-(4-methoxyphenyl)-5-methyl-3-oxo-4-pyridazinecarbonitrile, mp 146°-148° C. (EtOH).

reactant | 1-[(4-chlorophenyl)thio]-1-[(4-methoxyphenyl)hydrazono]-2-propanone | 0.097 mole, 32.6 g | ClC1=CC=C(C=C1)SC(C(C)=O)=NNC1=CC=C(C=C1)OC | C16H15ClN2O2S
reactant | ethylcyanoacetate | 24.8 ml | C(C)OC(CC#N)=O | C5H7NO2
reactant | ammonium acetate | 12.2 g | C(C)(=O)[O-].[NH4+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-[(4-chlorophenyl)thio]-2,3-dihydro-2-(4-methoxyphenyl)-5-methyl-3-oxo-4-pyridazinecarbonitrile | 33.05 g | ClC1=CC=C(C=C1)SC=1C(=C(C(N(N1)C1=CC=C(C=C1)OC)=O)C#N)C | C19H14ClN3O2S
